US06831081B2
N-(4-Chlorobenzyl)-2-(((2R*)-2-((R*)-2-furyl(hydroxy)methyl)pyrrolidin-1-yl)-methyl)-7-methyl-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide.
Analogous to the procedures described in Example 2, N-(4-Chlorobenzyl)-2-(chloromethyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide (Preparation 1) is treated with 2-furyl(pyrrolidin-2-yl)methanol (Preparation 4) to afford the title compound

reactant | N-(4-Chlorobenzyl)-2-(chloromethyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3)CCl)=O)C=C1 | C17H14Cl2N2O2S
reactant | 2-furyl(pyrrolidin-2-yl)methanol | O1C(=CC=C1)C(O)C1NCCC1 | C9H13NO2
product | N-(4-Chlorobenzyl)-2-(((2R*)-2-((R*)-2-furyl(hydroxy)methyl)pyrrolidin-1-yl)-methyl)-7-methyl-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3)CN3[C@H](CCC3)[C@@H](O)C=3OC=CC3)=O)C=C1 | C26H26ClN3O4S
